US09287504B2
3,7-Bis-(4-bromo-phenyl)-1,5-dioctyl-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (1.4)
3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (1.250 g, 2.519 mmol) (1.3) is dissolved into anhydrous dimethylformamide (50 cm3) and then potassium carbonate (3.482 g, 25.19 mmol) and 1-bromo-octane (1.1 cm3, 6.3 mmol) is added. The resulting mixture is heated to 90° C. for 21 hours before being cooled down, poured into methanol (500 cm3) and filtered to recover the pure product (1.320 g, Yield: 73%). NMR (1H, 300 MHz, CDCl3): δ 7.64 (d, J=8.7 Hz, 4H); 7.57 (d, J=8.7 Hz, 4H); 6.26 (s, 2H); 3.62 (t, J=7.1 Hz, 4H); 1.63 (m, 4H); 1.32 (m, 8H); 1.26 (m, 12H); 0.87 (t, J=6.8 Hz, 6H).

reactant | 3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 2.519 mmol, 1.250 g | BrC1=CC=C(C=C1)C=1C(NC2=CC3=C(C(NC3=CC21)=O)C2=CC=C(C=C2)Br)=O | C22H12Br2N2O2
reactant | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 25.19 mmol, 3.482 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-octane | 6.3 mmol, 1.1 cm3 | BrCCCCCCCC | C8H17Br
solvent | methanol | 500 cm3 | CO | CH4O
product | 3,7-Bis-(4-bromo-phenyl)-1,5-dioctyl-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 1.320 g, Yield: 73% | BrC1=CC=C(C=C1)C=1C(N(C2=CC3=C(C(N(C3=CC21)CCCCCCCC)=O)C2=CC=C(C=C2)Br)CCCCCCCC)=O | C38H44Br2N2O2
